US04540703
5-(1-Cyclohexyl-1,2,3,4-tetrazol-5-yl)valeric acid (2.5 g) is dissolved in tetrahydrofuran (50 ml), and thereto is added triethylamine (1.1 g). To the mixture is added dropwise with stirring isobutyl chloroformate (1.5 g) under ice-cooling, and the mixture is stirred at room temperature for 30 minutes. To the mixture is added dropwise with stirring N-ethyl-cyclohexylamine (1.5 g) at room temperature, and the mixture is further stirred for 2 hours. After distilling off tetrahydrofuran, water is added to the residue, and the mixture is extracted with chloroform. The chloroform layer is washed with an aqueous saturated sodium chloride solution and dried over magnesium sulfate. Chloroform is distilled off, and the resulting residue is subjected to column chromatography (Kieselgel 60, made by Merck & Co., eluting solvent, chloroform) to isolate N-ethyl-N-cyclohexyl-5-(1-cyclohexyl-1,2,3,4-tetrazol-5-yl)valeramide (2.6 g), white crystalline powder (ether), m.p. 92°-95° C.

reactant | 5-(1-Cyclohexyl-1,2,3,4-tetrazol-5-yl)valeric acid | 2.5 g | C1(CCCCC1)N1N=NN=C1CCCCC(=O)O | C12H20N4O2
reactant | triethylamine | 1.1 g | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 1.5 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-ethyl-cyclohexylamine | 1.5 g | C(C)NC1CCCCC1 | C8H17N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-ethyl-N-cyclohexyl-5-(1-cyclohexyl-1,2,3,4-tetrazol-5-yl)valeramide | 2.6 g | C(C)N(C(CCCCC1=NN=NN1C1CCCCC1)=O)C1CCCCC1 | C20H35N5O
